* C:\Users\Mark\Documents\Projects\Charge_Pump\CP_INIT.asc
V1 Vin 0 5
V2 CLK 0 PULSE(0 5 0 10ns 10ns .5us 1us)
C1 N001 SIG1 2.2µf
D1 Vin N001 1N5817
D2 N001 N002 1N5817
D3 N002 N003 1N5817
D4 N003 N004 1N5817
C4 N004 0 2.2µf
I1 N005 0 .2
XU1 0 N005 N004 LT1084-12
C5 N008 SIG2 22µf
C6 N009 SIG1 2.2µf
V3 NCLK 0 PULSE(0 5 .5us 10ns 10ns .5us 1us)
C2 N002 SIG2 2.2µf
C3 N003 SIG1 2.2µf
C8 N010 SIG2 2.2µf
C9 N011 0 22µf
I2 0 N011 .2
M1 SIG1 CLK 0 0 BSC123N08NS3
M2 SIG1 CLK Vin Vin RSS070P05
C10 NC_01 0 22µF
M3 SIG2 N006 Vin Vin RSS070P05
M4 SIG2 N006 0 0 BSC123N08NS3
A1 CLK 0 0 0 0 N006 0 0 BUF Vhigh=5V,Td=5e-9,Trise=5e-9
D5 N009 N008 1N5817
D6 N010 N009 1N5817
D7 N011 N010 1N5817
D8 N008 0 1N5817
.model D D
.lib C:\Users\Mark\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Mark\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5ms
.lib LT1083.lib
.backanno
.end
